US06506800B2
Preparation of (4E)-3-(4-Chlorophenyl)-4,5-difluoro-6-(3-phenoxyphenyl)-4-hexen-1-ol
To a stirred solution of 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-6-methoxy-2-hexenyl]-3-phenoxybenzene (0.081 g, 0.189 mmol) in methylene chloride at −5° C. under nitrogen was added dropwise boron tribromide (0.5 ml of a 1 M solution in methylene chloride, 0.5 mmol). The reaction mixture was allowed to warm to room temperature and stirred overnight at room temperature. The reaction mixture was cooled to −5° C., diluted with methanol (10 ml) and concentrated in vacua. The residue was taken up in methanol (10 ml) and the solution again concentrated. The residue was taken up in methylene chloride (25 ml), washed successively with water, saturated aqueous sodium bicarbonate and water, dried over anhydrous sodium sulfate and concentrated in vacuo to a brown gum. Chromatography of this gum on silica gel afforded the title compound as a tan syrup (0.057 g) which was characterized by 1HNMR, 19FNMR and mass spectral analysis.

reactant | 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-6-methoxy-2-hexenyl]-3-phenoxybenzene | 0.189 mmol, 0.081 g | ClC1=CC=C(C=C1)C(\C(=C(\CC1=CC(=CC=C1)OC1=CC=CC=C1)/F)\F)CCOC | C25H23ClF2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | (4E)-3-(4-Chlorophenyl)-4,5-difluoro-6-(3-phenoxyphenyl)-4-hexen-1-ol | 0.057 g | ClC1=CC=C(C=C1)C(CCO)/C(=C(/CC1=CC(=CC=C1)OC1=CC=CC=C1)\F)/F | C24H21ClF2O2
